US07585982B2
Production of 5,6-diethoxy-4-fluoro-3H-isoindol-1-ylamine
To a mixture of 5,6-diethoxy-4-fluoro-3H-isoindol-1-ylamine hydrochloride (233 mg, 0.85 mol) and water (6 mL), a 1N aqueous solution of sodium hydroxide (2 mL) was added, and the mixture was stirred on ice for 20 minutes. Precipitated crystals were filtered and washed with water to give 85 mg of the title compound (yield: 42%) as slightly green crystals.

reactant | 5,6-diethoxy-4-fluoro-3H-isoindol-1-ylamine hydrochloride | 0.85 mol, 233 mg | Cl.C(C)OC=1C(=C2CN=C(C2=CC1OCC)N)F
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
solvent | water | 6 mL | O | H2O
product | 5,6-diethoxy-4-fluoro-3H-isoindol-1-ylamine | 85 mg, yield: 42% | C(C)OC=1C(=C2CN=C(C2=CC1OCC)N)F | C12H15FN2O2
